US04958028
5-(2'-Methylpropyl)-3-(2,5-difluorophenyl)imidazoline-2,4-dione (3.0 g, 11.1 mmol) in DMF (15 mL) was added dropwise to an ice-cold suspension of sodium hydride (0.30 g, 12.5 mmol) in DMF (4 mL). The solution was allowed to stir for 2 hours, after which methyl iodide (1.04 mL, 2.38 g, 16.8 mmol) in DMF (5 mL) was added dropwise. The solution was stirred overnight and then diluted with water. The product was extracted with ethyl acetate (3×), and the combined extracts were washed with brine (saturated), dried (over MgSO4), filtered and concentrated. Purification by column chromatography gave 2.7 grams of 5-(2'-methylpropyl)-3-(2,5-difluorophenyl)-1-methylimidazolidine-2,4-dione, as an oil (compound 3 under Table A).

reactant | 5-(2'-Methylpropyl)-3-(2,5-difluorophenyl)imidazoline-2,4-dione | 11.1 mmol, 3.0 g | CC(CC1C(N(C(N1)=O)C1=C(C=CC(=C1)F)F)=O)C | C13H14F2N2O2
reactant | sodium hydride | 12.5 mmol, 0.30 g | [H-].[Na+]
reactant | methyl iodide | 16.8 mmol, 1.04 mL, 2.38 g | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2'-methylpropyl)-3-(2,5-difluorophenyl)-1-methylimidazolidine-2,4-dione | 2.7 grams | CC(CC1C(N(C(N1C)=O)C1=C(C=CC(=C1)F)F)=O)C | C14H16F2N2O2
